US09029391B2
(S)-3-(2-((tert-butyldiphenylsilyl)oxy)-1-hydroxyethyl)-4-(3,4-dimethylphenyl)-2-methylisoquinolin-1(2H)-one
A solution of 3-((1R)-2-{[(1,1-dimethylethyl)(diphenyl)silyl]oxy}-1-hydroxyethyl)-4-(3,4-dimethylphenyl)-1H-2-benzopyran-1-one (92 mg, 0.168 mmol) was dissolved in 2M methyl amine in THF (1.3 mL, 2.51 mmol) was heated to 80° C. After 18 h, the reaction mixture was concentrated in vacuo and treated with 4M HCl in dixoane (2 mL). The reaction stirred for 20 min and poured into 1M aqueous NaOH and extracted with EtOAc. The organic layer was dried (Na2SO4), filtered and concentrated. The residue was purified by silica gel chromatography (ethyl acetate-hexanes 0-50%) to afford the title compound (13 mg, 0.023 mmol, 14% yield) as a colorless film: Rt=1.28, ES+ MS: 562 (M+1).

reactant | 3-((1R)-2-{[(1,1-dimethylethyl)(diphenyl)silyl]oxy}-1-hydroxyethyl)-4-(3,4-dimethylphenyl)-1H-2-benzopyran-1-one | 0.168 mmol, 92 mg | CC(C)(C)[Si](OC[C@@H](O)C=1OC(C2=C(C1C1=CC(=C(C=C1)C)C)C=CC=C2)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C35H36O4Si
reactant | THF | 2.51 mmol, 1.3 mL | C1CCOC1 | C4H8O
reactant | methyl amine | 2M | CN | CH5N
product | (S)-3-(2-((tert-butyldiphenylsilyl)oxy)-1-hydroxyethyl)-4-(3,4-dimethylphenyl)-2-methylisoquinolin-1(2H)-one | 0.023 mmol, 13 mg, 14% yield | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H](O)C=1N(C(C2=CC=CC=C2C1C1=CC(=C(C=C1)C)C)=O)C | C36H39NO3Si
